US07094789B2
(Step A) Synthesis of N-(tert-butoxycarbonyl)-N′-(5-isoquinolyl)ethylenediamine (Intermediate 27)
Under nitrogen atmosphere, a suspension of 5-bromoisoquinoline (416 mg, Spex), tris(dibenzylideneacetone)dipalladium(0) (92 mg), 2-(di-tert-butylphosphino)biphenyl (119 mg), N-(2-aminoethyl)carbamic acid tert-butyl ester (385 mg) and sodium tert-butoxide (269 mg) in toluene (5 ml) was stirred with heating at 80° C. for 2 hours. The reaction mixture was cooled to room temperature and added with ethyl acetate (5 ml). The insoluble matters were removed by filtration through Celite. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1) to obtain the title compound (402 mg).

reactant | 5-bromoisoquinoline | 416 mg | BrC1=C2C=CN=CC2=CC=C1 | C9H6BrN
reactant | 2-(di-tert-butylphosphino)biphenyl | 119 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | N-(2-aminoethyl)carbamic acid tert-butyl ester | 385 mg | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | sodium tert-butoxide | 269 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 92 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-(tert-butoxycarbonyl)-N′-(5-isoquinolyl)ethylenediamine | 402 mg | C(C)(C)(C)OC(=O)NCCNC1=C2C=CN=CC2=CC=C1 | C16H21N3O2
